US07081456B2
4-chloro-2-cyclopropyl-quinoline-3-carboxylic acid ethyl ester (1.15 g, 0.0041 mols) and 4-hydrazino-benzoic acid (1.0 g, 0.0068 mols) were stirred in ethanol (30 ml) at reflux for 16 h. The bright yellow suspension was diluted with heptane, filtered, washed with cold t-butylmethyl ether and left to dry under suction to yield crude solid containing hydrazine. This solid was suspended in 1 M HCl, filtered, washed with water and then dried in vacuo to yield 4-(4-cyclopropyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid (1.135 g, 80%) as a yellow solid, LCMS m/z 346.20 [M+H]+ @ RT 1.05 min: 96% purity.

reactant | 4-chloro-2-cyclopropyl-quinoline-3-carboxylic acid ethyl ester | 0.0041 mols, 1.15 g | C(C)OC(=O)C=1C(=NC2=CC=CC=C2C1Cl)C1CC1 | C15H14ClNO2
reactant | 4-hydrazino-benzoic acid | 0.0068 mols, 1.0 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | hydrazine | NN | H4N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | heptane | CCCCCCC | C7H16
solvent | HCl | 1 M | Cl | ClH
product | 4-(4-cyclopropyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid | 1.135 g, 80% | C1(CC1)C=1NC=2C=CC=CC2C=2C1C(N(N2)C2=CC=C(C(=O)O)C=C2)=O | C20H15N3O3
